US08076359B2
Step 1: tert-Butyl (3R,4S)-3-({cyclopropyl[3-[2-(cyclopropyloxy)ethoxy]-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)-ethoxy]phenyl}piperidine-1-carboxylate
To a solution of tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]-amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate (1 eq.) from Example 1/Step 2 in DMF (0.1 M) was added (2-chloroethoxy)cyclopropane (3 eq.) and cesium carbonate (2 eq.). The reaction was heated to 100° C. and stirred for 3 h. After cooling to rt, the reaction was diluted with ether. The organic extract was washed with water, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 35% EtOAc in Hex) to afford the title compound as an oil.

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]-amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)O | C40H50Cl2N2O7
reactant | (2-chloroethoxy)cyclopropane | 3 eq. | ClCCOC1CC1 | C5H9ClO
reactant | cesium carbonate | 2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 0.1 M | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | tert-Butyl (3R,4S)-3-({cyclopropyl[3-[2-(cyclopropyloxy)ethoxy]-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)-ethoxy]phenyl}piperidine-1-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)OCCOC1CC1 | C45H58Cl2N2O8
